US08008525B2
Ethyl 3-(2,5-difluoro-4-hydroxyphenyl)propanoate
Ethyl 3-(2,5-difluoro-4-methoxyphenyl)propanoate (1.45 g, 5.9 mmol) was dissolved in dichloromethane (50 mL), a 1 M solution of boron tribromide in dichloromethane (7 mL) was added thereto, and the mixture was stirred at 0° C. for 4 hours. The reaction solution was concentrated under reduced pressure, water was added to the residue, and the reaction mixture was extracted with ethyl acetate. The extract was dried, and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=100:0 to 70:30) to give the title compound (387 mg, yield 29%).

reactant | Ethyl 3-(2,5-difluoro-4-methoxyphenyl)propanoate | 5.9 mmol, 1.45 g | FC1=C(C=C(C(=C1)OC)F)CCC(=O)OCC | C12H14F2O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | Ethyl 3-(2,5-difluoro-4-hydroxyphenyl)propanoate | 387 mg, yield 29% | FC1=C(C=C(C(=C1)O)F)CCC(=O)OCC | C11H12F2O3
